US05455258
2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetic acid hydrochloride (1.49 g, 3.35 mmol), 1-hydroxybenzotriazole (0.539 g, 3.52 mmol), 4-methylmorpholine (1.55 mL, 14.9 mmol), and O-t-butylhydroxyl amine hydrochloride (0.464 g, 3.70 mmol) are dissolved in methylene chloride (50.0 mL), and the reaction is cooled to 0° C. To this solution is added N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride (1.35 g, 7.04 mmol), and the reaction is allowed to warm up to room temperature and stir overnight. The reaction is diluted with more methylene chloride, and the organic layer is washed with saturated sodium bicarbonate, brine, dried (MgSO4), and the solvent is evaporated. The product is purified by silica gel chromatography (1% methanol/methylene chloride) to give N-(t-butyloxy)-2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetamide.

reactant | 2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetic acid hydrochloride | 3.35 mmol, 1.49 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)O)CC1=NC2=CC=CC=C2C=C1
reactant | 1-hydroxybenzotriazole | 3.52 mmol, 0.539 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 14.9 mmol, 1.55 mL | CN1CCOCC1 | C5H11NO
reactant | O-t-butylhydroxyl amine hydrochloride | 3.70 mmol, 0.464 g | Cl.C(C)(C)(C)ON
reactant | N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride | 7.04 mmol, 1.35 g | Cl.CN(C)CCCN=C=NCC
solvent | methylene chloride | 50.0 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butyloxy)-2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetamide | C(C)(C)(C)ONC(CN(CC1=NC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C23H27N3O5S
